***
*$
*TPS55340
*****************************************************************************
* (C) Copyright 2012,2013 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.                                             
** TI and its licensors and suppliers make no warranties, either expressed                                           
** or implied, with respect to this model, including the warranties of                                                    
** merchantability or fitness for a particular purpose. The model is                                                      
** provided solely on an "as is" basis. The entire risk as to its quality                                                    
** and performance is with the customer                                                                                          
*****************************************************************************
*
* Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS55340
* Date: 01/02/2014
* Model Type: Transient 
* Simulator: PSpice 
* Simulator Version: 16.2
* EVM Order Number: TPS55340EVM-017
* EVM Users Guide: SLVU668
* Datasheet: SLVSBE1 - APRIL 2012
* Model Version: Final 2.00
*
*****************************************************************************
*
* Updates:
* Final 2.00
* Model revised to address 
*  - Frequency foldback during startup
*  - Current limit
*  - Steady State capability
*
* Final 1.00
* Release to Web.
*
***************************************************************************

.subckt TPS55340_TRANS SW_0 SW_1 PWPD SW_2 VIN EN SS SYNC AGND NC_0 PGND_0 PGND_1 PGND_2 NC_1 FREQ FB COMP   params: SS=0
C_erroramp_C8         0 erroramp_N7417324  4.5p  
X_erroramp_U15         erroramp_N16916769 FB erroramp_N16916795 COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
C_erroramp_C14         0 erroramp_N16599751  1n  
R_erroramp_R8         erroramp_N7417324 erroramp_ENVELOPE  250k  
V_erroramp_V6         erroramp_N16916769 0 0.9V
D_erroramp_D5a         erroramp_N16599751 erroramp_N7417324 D_D1 
B_erroramp_ABM3 erroramp_N166144691 0 V=V(erroramp_CLIMIT) +V(erroramp_ENVELOPE)
X_erroramp_U16         SS_COMPLETE erroramp_N16916816 erroramp_N16916848 COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
R_erroramp_R11         0 erroramp_N7417324  1MEG  
V_erroramp_V7         erroramp_N16916816 0 0.8V
C_erroramp_C10         0 erroramp_EA_CLAMP  1n  
X_erroramp_U17         erroramp_N16916795 erroramp_N16916848 FREQFOLD AND2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
E_erroramp_E1         erroramp_N16598605 0 erroramp_EA_CLAMP COMP_CLAMP 1e6
V_erroramp_V2         erroramp_CLIMIT 0 1.2
C_erroramp_C6         0 erroramp_N16806362  1n  
C_erroramp_C9         0 erroramp_ENVELOPE  3p  
B_erroramp_ABM180 erroramp_N16769397 0 V=((V(SDWN) > 0.5) ? (1) : (0))
B_erroramp_ABM1 erroramp_N16774706 0 V=((V(SDWN) > 0.5) ? (65m) : (815m))
B_erroramp_GAIN1 erroramp_N16600984 0 V=1 * V(VRAMPIN)
R_erroramp_R4         0 COMP  10MEG  
D_erroramp_D2         erroramp_N16806362 COMP D_D1 
C_erroramp_C5         0 COMP  20p  
D_erroramp_D3         COMP erroramp_N16608201 D_D1 
R_erroramp_R5         erroramp_N16774706 erroramp_N16806362  1  
R_erroramp_R13         erroramp_N16599751 erroramp_N16599495  10n  
C_erroramp_C15         0 erroramp_N16769403  1n  
R_erroramp_R9         erroramp_N166144691 erroramp_EA_CLAMP  1  
V_erroramp_V5         erroramp_N16939349 0 1.229
R_erroramp_R15         erroramp_N16769397 erroramp_N16769403  1  
R_erroramp_R12         erroramp_N16596104 erroramp_N16598605  10n  
X_erroramp_U2         COMP_CLAMP erroramp_N16596104 D_D
B_erroramp_ABM2I1 0 COMP I={min(max((V(erroramp_N16939349)-V(FB))* 360u,-42u),42u)}
R_erroramp_R7         COMP COMP_CLAMP  400  
V_erroramp_V1         erroramp_N16608201 0 5.3
X_erroramp_S68    erroramp_N16769403 0 COMP 0 ErrorAmp_erroramp_S68 
C_erroramp_C13         0 erroramp_N16596104  1n  
E_erroramp_E2         erroramp_N16599495 0 erroramp_N16600984 erroramp_N7417324 1e6
R_R5         AGND NC_0  1m  
R_U1_R1         U1_EN_NOFILT U1_N7335550  10k  
X_U1_U605         U1_OUT U1_N16501198 INV_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
B_U1_ABM173 U1_EN_NOFILT 0 V={((V(EN) > 1.08) ? (1) : (0))}
R_U1_R2         0 EN  950k  
D_U1_D2         U1_EN_NOFILT U1_N7335550 D_D1 
B_U1_ABM2 U1_N165403951 0 V=(V(U1_N16499008) + 2.63)
R_U1_R4         U1_N165403951 U1_N16498934  1  
X_U1_U601         U1_N16543038 U1_N16501198 SDWN OR2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
X_U1_U604         EN_LOGIC U1_N16543038 INV_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
R_U1_R3         U1_N16499002 U1_N16499008  1  
C_U1_C3         0 U1_N16498934  1n  
B_U1_ABM1 U1_N16499002 0 V=(V(U1_OUT) * -130m)
C_U1_C2         0 U1_N16499008  1n  
X_U1_U606         U1_N7335550 EN_LOGIC BUF_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
C_U1_C1         0 U1_N7335550  70n  
X_U1_U5         VIN U1_N16498934 U1_OUT COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
D_Oscillator_D11         Oscillator_RAMP Oscillator_N16676357 D_D1 
X_Oscillator_F1    FREQ Oscillator_N16676171 Oscillator_N16676357 Oscillator_N16675967 Oscillator_Oscillator_F1 
X_Oscillator_S26    Oscillator_N16676387 0 Oscillator_RAMP 0 Oscillator_Oscillator_S26 
V_Oscillator_V48         Oscillator_N16681582 0 1.86
X_Oscillator_U135         SYSCLK Oscillator_N16676047 BUF_DELAY_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5 DELAY=20n
V_Oscillator_V46         Oscillator_N16676051 0 2
X_Oscillator_S27    FREQFOLD 0 Oscillator_N16698011 Oscillator_N16699552 Oscillator_Oscillator_S27 
X_Oscillator_U131         Oscillator_RAMP Oscillator_N16676051 SYSCLK COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
X_Oscillator_U697         SYSCLK Oscillator_N16685472 93PDUTY OR2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
V_Oscillator_V44         Oscillator_N16676171 0 1.229
X_Oscillator_F2    Oscillator_N16698011 0 0 Oscillator_RAMP Oscillator_Oscillator_F2 
X_Oscillator_H1    Oscillator_N16675967 0 I_RT 0 Oscillator_Oscillator_H1 
R_Oscillator_R278         I_RT Oscillator_N16699552  1  
X_Oscillator_U134         SDWN Oscillator_N16676047 Oscillator_N16676387 OR2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
V_Oscillator_V45         Oscillator_N16676357 0 5
X_Oscillator_U119         Oscillator_N16681582 Oscillator_RAMP Oscillator_N16685472 COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
C_Oscillator_C79         Oscillator_RAMP 0  6p  
X_U7_U823         U7_N16497188 PWM_CLK U7_N16489522 AND2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
D_U7_D1T         U7_N16489522 U7_INDELAYED1 D_D1 
R_U7_R272         U7_N16489522 U7_INDELAYED1  8.93k  
X_U7_U822         PWM_CLK U7_N16497188 INV_DELAY_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5 DELAY=15n
X_U7_U824         U7_N16489522 U7_INDELAYED1 PWM_CLK PWM_FINAL OR3_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
C_U7_C172         0 U7_INDELAYED1  10p  
R_R4         SW_0 SW_1  1m  
R_R6         SW_0 SW_2  1m  
R_R1         PGND_0 NC_0  1m  
D_U8_D1         U8_N7375243 SW_0 D_D1 
X_U8_U613         SDWN U8_N7375083 INV_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
X_U8_H1    U8_N7375243 0 ISW 0 Driver_U8_H1 
X_U8_S30    U8_N16776274 0 U8_N16776535 U8_N7375243 Driver_U8_S30 
X_U8_U604         U8_N7375083 PWM_FINAL U8_N16776274 AND2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
R_U8_R3         U8_N16776535 SW_0 R_U8_R3 59m tc1=2.59m tc2=0 
.model        R_U8_R3 RES R=1 DEV=47%
C_U6_C146         0 U6_N16621608  1p  
X_U6_S26    U6_N16543632 0 VRAMPIN 0 GmIphase_U6_S26 
D_U6_D4         U6_N16621608 U6_N16621496 D_D1 
R_U6_R255         U6_N16621496 U6_N16621608  28.8k  
X_U6_U606         PWM_FINAL U6_N16543632 INV_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
B_U6_ABM151 U6_N16621496 0 V={((V(PWM_FINAL) > 0.5) ? (1) : (0))}
R_U6_R257         U6_N16571205 U6_N16573389  220k  
X_U6_U605         PWM_FINAL U6_N16571205 INV_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
X_U6_U604         U6_N16625550 93PDUTY U6_PWM AND2_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
B_U6_ABMII1 VRAMPIN 0 I=-V(U6_N16573109)-0.5u
X_U6_U603         PWM_CLK N16528816 SYSCLK SET1 U6_PWM SET1 DFFSBRB_RHPBASIC_GEN params: VDD=1 VSS=0 VTHRESH=500E-3
C_U6_C134         0 VRAMPIN  6p  
X_U6_U600         U6_ICTRL U6_ISWF U6_N16625550 COMP_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5
B_U6_ABM163 U6_ICTRL 0 V=(V(COMP_CLAMP) - V(VRAMPIN) )
C_U6_C135         0 U6_N16573389  15p  
V_U6_V1         SET1 0 5V
B_U6_ABM152 U6_ISWF 0 V={((V(U6_N16621608) > 0.5) ? (V(ISW)+1.04) : (1.04))}
B_U6_ABM165 U6_N16573109 0 V=min(max((0.01627*V(I_RT))/(V(U6_N16573389)+0.1m),0),71.42u)
R_U4_R16         U4_N16643634 COMP  1  
B_U4_ABM181 SS_COMPLETE 0 V=((V(SS) >1.8) ? (1) : (0))
R_U4_R15         U4_N16641529 U4_N16641535  1  
B_U4_ABM180 U4_N16641529 0 V=((V(SDWN) > 0.5) ? (1) : (0))
D_U4_D1         SS U4_N16500284 D_D1 
V_U4_V64         U4_N16500284 0 2.5
X_U4_S68    U4_N16641535 0 SS 0 SoftStart_U4_S68 
C_U4_C15         0 U4_N16641535  1n  
Q_U4_Q1         0 SS U4_N16643634 Q_Q1 
D_U4_D63         0 SS D_D1 
B_U4_ABMI6 U4_N16500284 SS I={((V(SDWN) > 0) ? (0) : (6e-6))}
R_R2         NC_0 FB  6.145MEG  
R_R3         PGND_1 NC_0  1m  
R_R7         NC_1 NC_0  1m  
.ic V(Oscillator_RAMP)=0
.ic V(SS)={SS*1.8}
.ends TPS55340_TRANS
*$
.subckt ErrorAmp_erroramp_S68 1 2 3 4  
S_erroramp_S68         3 4 1 2 _erroramp_S68
RS_erroramp_S68         1 2 1G
.MODEL         _erroramp_S68 VSWITCH Roff=100e6 Ron=1 Voff=0.2 Von=0.8
.ends ErrorAmp_erroramp_S68
*$
.subckt Oscillator_Oscillator_F1 1 2 3 4  
F_Oscillator_F1         3 4 VF_Oscillator_F1 -1
VF_Oscillator_F1         1 2 0V
.ends Oscillator_Oscillator_F1
*$
.subckt Oscillator_Oscillator_S26 1 2 3 4  
S_Oscillator_S26         3 4 1 2 _Oscillator_S26
RS_Oscillator_S26         1 2 1G
.MODEL         _Oscillator_S26 VSWITCH Roff=100e6 Ron=1.0 Voff=0.2 Von=0.8
.ends Oscillator_Oscillator_S26
*$
.subckt Oscillator_Oscillator_S27 1 2 3 4  
S_Oscillator_S27         3 4 1 2 _Oscillator_S27
RS_Oscillator_S27         1 2 1G
.MODEL         _Oscillator_S27 VSWITCH Roff=1m Ron=3 Voff=0.5 Von=0.8
.ends Oscillator_Oscillator_S27
*$
.subckt Oscillator_Oscillator_F2 1 2 3 4  
F_Oscillator_F2         3 4 VF_Oscillator_F2 1
VF_Oscillator_F2         1 2 0V
.ends Oscillator_Oscillator_F2
*$
.subckt Oscillator_Oscillator_H1 1 2 3 4  
H_Oscillator_H1         3 4 VH_Oscillator_H1 0.5
VH_Oscillator_H1         1 2 0V
.ends Oscillator_Oscillator_H1
*$
.subckt Driver_U8_H1 1 2 3 4  
H_U8_H1         3 4 VH_U8_H1 23.3m
VH_U8_H1         1 2 0V
.ends Driver_U8_H1
*$
.subckt Driver_U8_S30 1 2 3 4  
S_U8_S30         3 4 1 2 _U8_S30
RS_U8_S30         1 2 1G
.MODEL         _U8_S30 VSWITCH Roff=35e6 Ron=0.1m Voff=0.2 Von=0.8
.ends Driver_U8_S30
*$
.subckt GmIphase_U6_S26 1 2 3 4  
S_U6_S26         3 4 1 2 _U6_S26
RS_U6_S26         1 2 1G
.MODEL         _U6_S26 VSWITCH Roff=100e6 Ron=10m Voff=0.2 Von=0.8
.ends GmIphase_U6_S26
*$
.subckt SoftStart_U4_S68 1 2 3 4  
S_U4_S68         3 4 1 2 _U4_S68
RS_U4_S68         1 2 1G
.MODEL         _U4_S68 VSWITCH Roff=1meg Ron=1 Voff=0.2 Von=0.8
.ends SoftStart_U4_S68
*$
.MODEL Q_Q1 PNP( BF=100 IS=1e-14 VJE=0.75 )
*$
.SUBCKT AND2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH} && V(C) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT AND4_BASIC_GEN A B C D Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH} && V(C) > {VTHRESH} && V(D) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND4_BASIC_GEN
*$
.SUBCKT NAND2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND2_BASIC_GEN
*$
.SUBCKT NAND3_BASIC_GEN A B C Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH} && V(C) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND3_BASIC_GEN
*$
.SUBCKT NAND4_BASIC_GEN A B C D Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  && V(B) > {VTHRESH} && V(C) > {VTHRESH} && V(D) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NAND4_BASIC_GEN
*$
.SUBCKT OR2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.SUBCKT OR4_BASIC_GEN A B C D Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH} || V(D) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR4_BASIC_GEN
*$
.SUBCKT NOR2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR2_BASIC_GEN
*$
.SUBCKT NOR3_BASIC_GEN A B C Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR3_BASIC_GEN
*$
.SUBCKT NOR4_BASIC_GEN A B C D Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH} || V(D) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR4_BASIC_GEN
*$
.SUBCKT NOR5_BASIC_GEN A B C D E Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH} || V(D) > {VTHRESH} || V(E) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR5_BASIC_GEN
*$
.SUBCKT NOR6_BASIC_GEN A B C D E F Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  || V(B) > {VTHRESH} || V(C) > {VTHRESH} || V(D) > {VTHRESH} || V(E) > {VTHRESH} || V(F) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS NOR6_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT XOR2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  != V(B) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS XOR2_BASIC_GEN
*$
.SUBCKT XNOR2_BASIC_GEN A B Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}  != V(B) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS XNOR2_BASIC_GEN
*$
.SUBCKT MUX2_BASIC_GEN A B S Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(S) > {VTHRESH}) ? (V(B)) : (V(A)))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS MUX2_BASIC_GEN
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y params: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
B_ABMGATE1 YINT1 0 V={((V(A) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
B_ABMGATE2 YINT3 0 V={((V(YINT2) > {VTHRESH}) ? ({VSS}) : ({VDD}))}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y params: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n 
B_ABMGATE1 YINT1 0 V={((V(A) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
B_ABMGATE2 YINT3 0 V={((V(YINT2) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y params: VDD=1 VSS=0 VTHRESH=0.5 
B_ABMGATE YINT 0 V={((V(A) > {VTHRESH}) ? ({VDD}) : ({VSS}))}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
**Set has higher priority in this latch
.SUBCKT SRLATCHSHP_BASIC_GEN S R Q QB params: VDD=1 VSS=0 VTHRESH=0.5 
BQ 0 Qint I=((V(S) > {VTHRESH}) ? (5) : (((V(R)>{VTHRESH}) ? (-5) : (0))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n 
.ic V(Qint)={VSS}
.ENDS SRLATCHSHP_BASIC_GEN
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB params: VDD=1 VSS=0 VTHRESH=0.5 
BQ 0 Qint I=((V(R) > {VTHRESH}) ? (-5) : (((V(S)>{VTHRESH}) ? (5) : (0))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr QB 1 
Cdummy1 Q 0 1n 
Cdummy2 QB 0 1n
.ic V(Qint)={VSS}
.ENDS SRLATCHRHP_BASIC_GEN
*$
**Reset has higher priority in this latch and active low set and reset - basically NAND based SR latch
.SUBCKT SBRBLATCHRHP_BASIC_GEN SB RB Q QB params: VDD=1 VSS=0 VTHRESH=0.5 
BQ 0 Qint I=((V(RB) < {VTHRESH}) ? (-5) : (((V(SB) < {VTHRESH}) ? (5) : (0))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr QB 1 
.ic V(Qint)={VSS}
.ENDS SBRBLATCHRHP_BASIC_GEN
*$
**Reset has higher priority in this latch and active low set and reset - basically NAND based SR latch
.SUBCKT SBRBLATCHSHP_BASIC_GEN SB RB Q QB params: VDD=1 VSS=0 VTHRESH=0.5 
BQ 0 Qint I=((V(SB) < {VTHRESH}) ? (5) : (((V(RB) < {VTHRESH}) ? (-5) : (0))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr QB 1 
.ic V(Qint)={VSS}
.ENDS SBRBLATCHSHP_BASIC_GEN
*$
.SUBCKT DFFSBRB_SHPBASIC_GEN Q QB CLK D RB SB params: VDD=1 VSS=0 VTHRESH=0.5 
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
BQ 0 Qint I=((V(SB) < {VTHRESH}) ? (5) : (((V(RB)<{VTHRESH}) ? (-5) : (((V(CLKint)> {VTHRESH}) ? (((V(D)> {VTHRESH}) ? (5) : (-5))) : (0))))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.ic V(Qint)={VSS}
.ENDS DFFSBRB_SHPBASIC_GEN
*$
.SUBCKT DFFSR_SHPBASIC_GEN Q QB CLK D R S params: VDD=1 VSS=0 VTHRESH=0.5 
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} 
BQ 0 Qint I=((V(S) > {VTHRESH}) ? (5) : (((V(R) > {VTHRESH}) ? (-5) : (((V(CLKint)> {VTHRESH}) ? (((V(D)> {VTHRESH}) ? (5) : (-5))) : (0))))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN params: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 20n
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.ic V(Qint)={VSS}
.ENDS DFFSR_SHPBASIC_GEN
*$
.SUBCKT DFFSBRB_RHPBASIC_GEN Q QB CLK D RB SB params: VDD=1 VSS=0 VTHRESH=0.5 
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} 
BQ 0 Qint I=((V(RB) < {VTHRESH}) ? (-5) : (((V(SB)< {VTHRESH}) ? (5) : (((V(CLKint)> {VTHRESH}) ? (((V(D)> {VTHRESH}) ? (5) : (-5))) : (0))))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 5
D_D11 0 Qint D_D1 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.ic V(Qint)={VSS}
.ENDS DFFSBRB_RHPBASIC_GEN
*$
.SUBCKT DFFSR_RHPBASIC_GEN Q QB CLK D R S params: VDD=1 VSS=0 VTHRESH=0.5 
***Set has higher priority in this
** Changed the delay from 7n/10n to 15n/20n to help larger time step simulations
**Faster flip-flops require a a smaller time step to simulate
X1 CLK CLKdel INV_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 15n
X2 CLK CLKdel CLKint AND2_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}  
BQ 0 Qint I=((V(R) > {VTHRESH}) ? (-5) : (((V(S) > {VTHRESH}) ? (5) : (((V(CLKint)> {VTHRESH}) ? (((V(D)> {VTHRESH}) ? (5) : (-5))) : (0))))))
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_DELAY_BASIC_GEN params: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH} DELAY = 20n
RQq Qqqd1 Q 1
BQb Qbr 0 V=((V(Q) > {VTHRESH}) ? ({VSS}) : ({VDD}))
RQb Qbr Qb 1 
Cdummy1 Q 0 1nF 
Cdummy2 QB 0 1nF 
.ic V(Qint)={VSS}
.ENDS DFFSR_RHPBASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y params: VDD=1 VSS=0 VTHRESH=0.5	
B_ABM Yint 0 V=((V(INP) > V(INM)) ? ({VDD}) : ({VSS}))
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d is=1e-015 n=0.01 tt=1e-011
.ends d_d
*$
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
*$
.SUBCKT CESR IN OUT params:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT params:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
